US07576094B2
To a mixture of trimethyl-hydroquinone (3.04 g) and acrylic acid (1.44 g) was added methyl-sulfonic acid (30 mL). The mixture was heated slowly up to 100° C. under nitrogen. The reaction mixture was stirred at 100° C. for 1 hour. The solution was poured into ice, and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate water solution, water and brine. Evaporation and chromatography (silica gel, hexane-ethyl acetate 10% to 25%) gave 1.77 g of 6-hydroxy-5,7,8-trimethyl-chroman-2-one.

reactant | trimethyl-hydroquinone | 3.04 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | acrylic acid | 1.44 g | C(C=C)(=O)O | C3H4O2
solvent | methyl-sulfonic acid | 30 mL | CS(=O)(=O)O | CH4O3S
product | 6-hydroxy-5,7,8-trimethyl-chroman-2-one | 1.77 g | OC=1C(=C2CCC(OC2=C(C1C)C)=O)C | C12H14O3
